US04275247
To cyclohexane-1,2,3-trione 1,3-dioxime (100 parts) were added glacial acetic acid (400 parts) and water (1600 parts) and the mixture refluxed for four hours at 100°-100.5° C. The pyrogallol was extracted and purified as follows. 47.3% NaOH solution (483 parts) was added to the cooled mixture, when the pH rose from 3.4 to 6.0. The mixture was filtered giving insolubles (60 parts), and the filtrate was continuously extracted with ether. The extract was dried over Na2SO4 and evaporated. The residue was triturated with water and the mixture filtered giving insolubles (8 parts) and a filtrate which was evaporated on a water bath to give a tar (8 parts). To this tar were added glacial acetic acid (42 parts) and acetic anhydride (70 parts) and a catalytic amount of pyridine. After standing at room temperature for five hours, the mixture was drowned out in water and the tar obtained recrystallised from methanol (8 parts) to give pyrogallol triacetate (1 part), melting point 161°-163° C., (0.5% yield).

reactant | cyclohexane-1,2,3-trione 1,3-dioxime | C1(C(C(CCC1)=NO)=O)=NO | C6H8N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
product | pyrogallol triacetate | 0.5% yield | C(C)(=O)OC1=C(OC(C)=O)C(OC(C)=O)=CC=C1 | C12H12O6
